US09416132B2
76. 2-(trans-4-(((3-(3-chlorophenyl)imidazo[1,2-b]pyridazin-6-yl)amino)methyl)cyclohexyl)propan-2-ol (EX. 8-76)
A mixture of 6-chloro-3-(3-chlorophenyl)imidazo[1,2-b]pyridazine (100 mg, 0.38 mmol), 2-(trans-4-(aminomethyl)cyclohexyl)propan-2-ol (140 mg, 0.76 mmol) and KF (51 mg, 0.88 mmol) in DMSO (2 mL) was stirred at 130° C. overnight. LCMS showed the reaction was complete. The mixture was poured into water (100 mL) and extracted with EtOAc (50 mL×3). The combined extracts were dried over Na2SO4, filtered and concentrated in vacuo. The residue was purified by prep-HPLC to give EX. 8-76 (12 mg, 8%) as a yellow solid.

reactant | 6-chloro-3-(3-chlorophenyl)imidazo[1,2-b]pyridazine | 0.38 mmol, 100 mg | ClC=1C=CC=2N(N1)C(=CN2)C2=CC(=CC=C2)Cl | C12H7Cl2N3
reactant | 2-(trans-4-(aminomethyl)cyclohexyl)propan-2-ol | 0.76 mmol, 140 mg | NC[C@@H]1CC[C@H](CC1)C(C)(C)O | C10H21NO
reactant | KF | 0.88 mmol, 51 mg | [F-].[K+]
reactant | water | 100 mL | O | H2O
solvent | DMSO | 2 mL | CS(=O)C | C2H6OS
product | 2-(trans-4-(((3-(3-chlorophenyl)imidazo[1,2-b]pyridazin-6-yl)amino)methyl)cyclohexyl)propan-2-ol | ClC=1C=C(C=CC1)C1=CN=C2N1N=C(C=C2)NC[C@@H]2CC[C@H](CC2)C(C)(C)O | C22H27ClN4O
